US07691882B2
3-Fluoro-2-(4-(2-nitro-ethyl)-benzyloxy)-pyridine
To an acetic acid (20 mL) solution of 4-(3-fluoro-pyridin-2-yloxymethyl)-benzaldehyde (887 mg, 3.84 mmol) described in Manufacturing Example 149-1-2 were added nitromethane (1.04 mL, 19.2 mmol) and ammonium acetate (592 mg, 7.68 mmol), which was stirred under nitrogen atmosphere for 4 hours and 30 minutes at 100° C. Water was added to the reaction mixture at 0° C., which was extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrated was concentrated under a reduced pressure. To a solution of this residue in dimethyl sulfoxide (20 mL) and acetic acid (1 mL) was added sodium borohydride (291 mg, 7.68 mmol), which was stirred for 30 minutes at room temperature. Sodium hydrogencarbonate and water were added to the reaction solution at room temperature while cooling appropriately, which was extracted with ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (674 mg, 64%).

reactant | 4-(3-fluoro-pyridin-2-yloxymethyl)-benzaldehyde | 3.84 mmol, 887 mg | FC=1C(=NC=CC1)OCC1=CC=C(C=O)C=C1 | C13H10FNO2
reactant | nitromethane | 19.2 mmol, 1.04 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 7.68 mmol, 592 mg | C(C)(=O)[O-].[NH4+]
reactant | sodium borohydride | 7.68 mmol, 291 mg | [BH4-].[Na+]
reactant | Sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 3-Fluoro-2-(4-(2-nitro-ethyl)-benzyloxy)-pyridine | 674 mg, 64% | FC=1C(=NC=CC1)OCC1=CC=C(C=C1)CC[N+](=O)[O-] | C14H13FN2O3
